US09079853B2
1-ethyl-3-(2-hydroxy-4-methoxybenzyl)-2-oxoindolin-3-yl benzoate
This compound was prepared in a similar manner to 3-(2-hydroxy-4-methoxybenzyl)-5-methyl-1-(4-methylpentyl)-2-oxoindolin-3-yl benzoate by reacting 1-ethyl-2-oxoindolin-3-yl benzoate with tert-butyl (2-(hydroxymethyl)-5-methoxyphenyl)carbonate. 1H-NMR δ 8.04 (d, 2H), 7.6 (t, 1H), 7.43 (t, 2H), 7.30 (t, 1H), 7.25 (d, 1H), 7.08 (t, 1H), 6.78 (d, 1H), 6.47 (m, 2H), 6.24 (dd, 1H), 6.15 (bs, OH), 3.83 (m, 1H), 3.71 (s, 3H), 3.61 (m, 1H), 3.48 (d, 1H), 3.43 (d, 1H), 1.02 (t, 3H). Calculated mass for C25H23NO5, 417.16. Observed 440.0 (M+Na).

reactant | 3-(2-hydroxy-4-methoxybenzyl)-5-methyl-1-(4-methylpentyl)-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)C)CCCC(C)C)=O)CC1=C(C=C(C=C1)OC)O | C30H33NO5
reactant | 1-ethyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=CC=C12)CC)=O | C17H15NO3
product | 1-ethyl-3-(2-hydroxy-4-methoxybenzyl)-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=CC=C12)CC)=O)CC1=C(C=C(C=C1)OC)O | C25H23NO5
